Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I shouldn't be here"
 
Major Surgical or Invasive Procedure:
None.
 
History of Present Illness:
HISTORY OF PRESENT ILLNESS:
Per ___ ___ ED Initial Psychiatry Consult
note:

___ is a ___ year old male with PMH of self-reported
depression, anxiety and ADHD who was brought in by EMS after his
girlfriend called ___ due to receiving suicidal text messages
from him. He states that everything was a huge misunderstanding
and taking his words out of context in order to "interpret it
incorrectly." He reports that ever since he let his girlfriend
know that he takes medications for his depression and anxiety, 
he
reports that she has been more on edge with him and not
understanding where he is coming from and calling him lazy when
he feels depressed. He endorses hypersomnia and amotivation and
intermittent suicidal ideation, but denies having any plan or
intent. He states that after having an argument with his
girlfriend last ___ night, he texted her a provocative
statement stating, "What if I had hung myself?" due to his
irritation that she had not texted or called him for an entire
day after their argument. He endorses that he sent this message
not to state that he would actually try to hurt himself, but in
order to make a point and to help her understand how he feels. 
He
endorses worsening depression since ___ of this past year. 
He
also notes intermittent anxiety about executing tasks. "

In the ED, patient was also seen by Drs ___,
pls see progress notes and collateral notes from ___ to
___. Patient was noted to be in good behavioral control and
did not require any chemical or physical restraints.

Per Dr. ___ ___ ED note 
"He made comments that if he had
to go to jail, he would kill himself, and is facing ___ year
sentence after selling to undercover detective in ___. He
acknowledged to ___ he had the suicidal thoughts but claims he
would never have acted on the thoughts. While here he has
minimized all recent events. He says to me that he took FMLA
because he was too lazy to work and couldn't get any more
Adderall, but also stated that he took the leave because his
depression and anxiety were so severe. He has been treated for
depression and anxiety as an outpatient and is on Zoloft, Xanax
bid prn, and Adderall tid which patient acknowledges he has been
abusing. Says he only used 30 tabs of Xanax over a few months 
and
did not take daily. Psychiatrist noted many early refills and
concerns for abuse of both Xanax and Adderall. Patient not well
connected to outpatient psychiatrist per his report. He says he
had already broken up with gf and it's no big deal that they're
not going to be living together, but can't explain then why he
made the suicidal comments if not in setting of breakup. Patient
acknowledges disliking job. He was supposed to go back to work
last week but asked for an extension. He acknowledges he used
adderall to get through the job he hated. Inconsistent remarks
about how everything would have been fine if we would have just
not held him in the ED when he was supposed to go back to work
yesterday, but can't explain why if everything was so great he
was making suicidal statements other than that "I was just high
on Adderall". Denies ever making suicidal statements when on
Adderall in past. Says video he sent gf referring to ___ member related suicide was more about depression; he says 
he
wanted her to understand how depressed he was and to prove he
wasn't "lazy", but then again backtracks and says he wasn't all
that depressed."  

On interview today, patient discusses that sending the text
message as "juvenile, stupid, super silly." He notes when he
re-reads the text message it makes him uncomfortable, and if a
family member sent him the text message he would have acted the
same way his girlfriend did. He denies having suicidal ideation,
intent, or plan. He states he is "too much of a coward" to 
commit
suicide. He also states he would not want to hurt his family or
friends. He describes being anxious and depressed for the last 3
months, which led to a strain on his relationship. He notes he
reached out to his girlfriend prior to to the suicidal texts
asking her to talk, but she wasn't responding to his text
messages, at which point he wrote the suicidal text message. He
notes being on adderral at the time. 

Regarding adderral he notes misusing it for over ___ yrs, and he
states he specifically got care from his psychiatrist bc he had
heard he would give him a prescription for adderral. Patient
describes several consequences from adderral namely sexual side
effects, increased anxiety, poor sleep, and impulsive behavior.
He describes sometimes "blacking out" on adderral and not
remembering conversations he had via text message. He states he
does feel he has a problem with adderral, and he wants treatment
for his stimulant use. He states he does not ___ any barriers
to stopping because he has been able to stop tobacco easily in
the past. 

Interview is recursive to patient stating he wants care, but he
feels like he should not be at the psych unit involuntary. He
states that "someone like me should not end up in an asylum". He
continues that he was making 6 figures. Denies HI, AVH, and
delusional thought content.
 
Past Medical History:
PAST MEDICAL HISTORY:
Denies history of head trauma, seizure.

 
Social History:
SUBSTANCE USE HISTORY:
-Caffeine: ___ cups per day
-Tobacco: chewing tobacco daily
-Alcohol: Denies. Denies history of alcohol withdrawal, DTs,
seizures.
-Marijuana: 2x/week smokes a joint
-Heroin: denies
-Opiates: denies
-Benzos: other than prescribed, denies
-Cocaine: Has used a couple of times a few yrs back 
-Amphetamines/speed: Reports misuse of amphetamines over the 
past
___ yrs, and noted he sought care with a psychiatrist in order to
obtain a prescription for adderral 
-LSD/PCP: denies
-___: denies
-Detox: denies
-Other Drugs: Denies

FORENSIC HISTORY:
-Arrests: Arrested in ___ for drug trafficking 
-Convictions and jail terms: Denies
-Current status (pending charges, probation, parole): pending
charges

SOCIAL HISTORY:
___
Family History:
FAMILY PSYCHIATRIC HISTORY:
-Psychiatric Diagnoses: depression on father's side of the 
family
-Substance Use Disorders: alcohol use disorder on father's side
of the family
-Suicide Attempts/Completed Suicides: denies
 
Physical Exam:
On admission:

VITAL SIGNS:
97.1 PO, 16, 122/85, 76, 95

EXAM:

General:
-HEENT: Normocephalic, atraumatic.  Moist mucous membranes,
oropharynx clear, supple neck.  No scleral icterus.
-Cardiovascular: Regular rate and rhythm, S1/S2 heard, no
murmurs/rubs/gallops. Distal pulses ___ throughout.
-Pulmonary: No increased work of breathing.  Lungs clear to
auscultation bilaterally.  No wheezes/rhonchi/rales.
-Abdominal: Non-distended, bowel sounds normoactive.  No
tenderness to palpation in all quadrants.  No guarding, no
rebound tenderness.
-Extremities: Warm and well-perfused.  No edema of the limbs.
-Skin: No rashes or lesions noted.

Neurological:
-Cranial Nerves:
---I: Olfaction not tested.
---II: PERRL 3 to 2mm, both directly and consentually; brisk
bilaterally.  VFF to confrontation.
---III, IV, VI: EOMI without nystagmus
---V: Facial sensation intact to light touch in all 
distributions
---VII: No facial droop, facial musculature symmetric and ___
strength in upper and lower distributions, bilaterally
---VIII: Hearing intact to finger rub bilaterally
---IX, X: Palate elevates symmetrically
---XI: ___ strength in trapezii and SCM bilaterally
---XII: Tongue protrudes in midline
-Motor: Normal bulk and tone bilaterally. No abnormal movements,
no tremor. Strength ___ throughout.
-Sensory: No deficits to fine touch throughout
-DTRs: 2 and symmetrical throughout
Coordination: Normal on finger to nose test, no intention tremor
noted
-Gait: Good initiation.  Narrow-based, normal stride and arm
swing.  Able to walk in tandem without difficulty.  Romberg
absent.

Cognition: 
-Wakefulness/alertness: Awake and alert
-Attention: MOYb with 1 error, switched 2 months around
-Orientation: Oriented to person, time, place, situation
-Executive function (go-no go, Luria, trails, FAS): Not tested
-Memory: ___ registration, ___ recall after 5 ___
grossly intact
-Fund of knowledge: Consistent with education; intact to last 3
presidents
-Calculations: 7 quarters = "$1.75"
-Abstraction: Interprets "the grass is always greener on the
other side" as "whatever side you are not on is better"
-Visuospatial: Not assessed
-Language: Native ___ speaker, no paraphasic errors,
appropriate to conversation

Mental Status:
-Appearance: man appearing stated age, unkept hair but 
reasonable
grooming, wearing hospital gown, in no apparent distress
-Behavior: Sitting up in bed, appropriate eye contact, no
psychomotor agitation or retardation
-Attitude: Cooperative yet irritable 
-Mood: "fine"
-Affect: irritable, somewhat tearful at times, full range,
-Speech: Normal rate, volume, and tone
-Thought process: Linear, coherent, goal-oriented, no loose
associations
-Thought Content:
---Safety: Denies SI/HI
---Delusions: No evidence of paranoia, etc. 
---Obsessions/Compulsions: No evidence based on current 
encounter
---Hallucinations: Denies AVH, not appearing to be attending to
internal stimuli
-Insight: Limited
-Judgment: Poor

Mental status Exam on discharge:
Appearance: well groomed, 
Facial expression: neutral
build: overweight
Behavior: engaging, addressing questions
Eye contact: direct
psychomotor: no abnormal involuntary movements, no agitation
Speech: normal rate, volume and tone
Mood/affect: "OK", stable, no angry outbursts
Thought Process/content: liner, goal directed, denies
SI/HI, denies AH/VH/paranoid delusions, no racing thoughts
Intellectual Functioning: fair concentration
Oriented: x4
Memory: grossly intact
insight: fair
Judgment: fair

 
Pertinent Results:
___ 07:31AM BLOOD ALT-25 AST-14 AlkPhos-64 TotBili-0.4
___ 07:31AM BLOOD Cholest-209*
___ 07:31AM BLOOD %HbA1c-5.1 eAG-100
___ 07:31AM BLOOD Triglyc-116 HDL-35* CHOL/HD-6.0 
LDLcalc-151*
___ 07:31AM BLOOD TSH-3.___. LEGAL & SAFETY: 
On admission, the patient signed a conditional voluntary 
agreement (Section 10 & 11) and remained on that level 
throughout their admission.  He was also placed on 15 minute 
checks status on admission and remained on that level of 
observation throughout while being unit restricted. He did not 
require physical or chemical restraints during this 
hospitalization. 
 
2. PSYCHIATRIC:
#) Unspecified mood/anxiety
On presentation to the emergency department and inconsistent 
history was provided by the patient with denial of suicidality, 
and collateral contacts reporting recent suicidal thoughts and 
statements by text along with psychosocial stressors of legal 
difficulties, recent unemployment and financial instability and 
social isolation.  On admission to the emergency department the 
patient denied suicidal ideation, and continue to do so for the 
remainder of his admission.  He also denied depressive symptoms, 
stating that anxiety was the most prominent symptom he 
experienced, for which he was on sertraline 150 mg p.o. daily.  
The treatment team discussed with the patient increasing his 
daily dose to 175 mg p.o. daily, along with risks and benefits 
of increasing the dose and remaining at the same dose, and the 
patient was agreeable to this change.  He was able to tolerate 
the dose change without any side effects. 

3. SUBSTANCE USE DISORDERS:
#) Tobacco use disorder.  Treatment team discussed smoking 
cessation, and the deleterious effects of tobacco use.  
Treatment team also provided motivational enhancement therapy to 
encourage reduction of use and abstinence.  Patient was also 
provided with nicotine gum to manage his nicotine cravings, and 
this prescription was continued on discharge.

#) Stimulant use disorder.  Patient reported a multiyear history 
of intermittent Adderall use in order to manage his educational 
demands.  Upon graduation he sought out a psychiatrist who would 
prescribe him Adderall as the patient requested, and continued 
to use approximately 60 to 80 mg of short acting Adderall on a 
daily basis (throughout the day, and not in 1 dose), many times 
snorting the medication.  Upon admission, Adderall was stopped, 
and while the patient was observed to be sleeping during the 
day, he attributed this daytime sleeping pattern to order him, 
and denied withdrawal symptoms associated with Adderall 
cessation.  The treatment team discussed the deleterious effects 
of stimulant use, and provided motivational enhancement therapy 
to encourage reduction of use and abstinence.

#) Cannabis use disorder.  Patient related that he smokes a 
joint approximately 2 times per week.  Treatment team discussed 
the deleterious effects of cannabis use, and provided 
motivational enhancement therapy to encourage reduction of use, 
and abstinence.
 
4. MEDICAL
No medical concerns on this admission.
 
5. PSYCHOSOCIAL
#) GROUPS/MILIEU: 
The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit.  The 
patient intermittently attended 
these groups that focused on teaching patients various coping 
skills.  He was often visible in the milieu and was appropriate 
in his interactions with peers and staff without ever requiring 
restraint or seclusion.
 
#) COLLATERAL INFORMATION AND  FAMILY INVOLVEMENT
The patient’s parents were involved in the patients’ treatment 
and discharge planning, and were provided with the opportunity 
to discuss the patient’s diagnosis and treatment with the 
primary treatment team prior to the patient's discharge. The 
patient’s family was supportive of the patient’s treatment and 
aftercare plan. Team met with patient's mother and the patient 
in a family meeting prior to discharge 
 
#) INTERVENTIONS
- Medications: Sertraline,
- Psychotherapeutic Interventions: Individual, group, and milieu 
therapy.
- Coordination of aftercare: ___, ___ (___ 
___, AdCare (Intensive Outpatient 
Program/Substance Use Treatment ), 
- Behavioral Interventions: Encourage participation in 
psychotherapeutic groups.
- Guardianships: N/A
 
INFORMED CONSENT: The team discussed the indications for, 
intended benefits of, and possible side effects and risks of 
increasing the dose of sertraline,  and risks and benefits of 
possible alternatives, including not increasing the dose of the 
medication, with this patient.   We discussed the patient's 
right to decide whether to take this medication as well as the 
importance of the patient's actively participating in the 
treatment and discussing any questions about medications with 
the treatment team.  
 
RISK ASSESSMENT & PROGNOSIS
On presentation, the patient was evaluated and felt to be at an 
increased risk of harm to himself based upon concerning 
collateral consisting of suicidal ideation in the setting of 
medication mis-use, substance abuse and multiple 
psychosocial-legal stressors. His static factors noted at that 
time ADD, male gender, recent dissolution of a relationship, 
single relationship status, recent financial/job loss, pending 
legal charges, recent estrangement from psychiatrist given 
concern for misuse of prescriptions.

His modifiable risk factors included stimulant misuse, 
impulsivity, anxiety, and homelessness. The modifiable risk 
factors were addressed during hospitalization via medication 
management, psychotherapeutic intervention, and aftercare 
coordination.  

Finally, the patient is being discharged with many protective 
risk factors, including responsibility to family, 
reality-testing ability, and support of parents, medication 
adherence, lack of suicidal ideation, future-oriented viewpoint. 
 Overall, the patient is not at an acutely elevated risk of 
self-harm nor danger to others due to acutely decompensated 
psychiatric illness.
 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Sertraline 150 mg PO DAILY 
2. ALPRAZolam 0.5 mg PO BID:PRN anxiety 
3. Adderall (dextroamphetamine-amphetamine) 20 mg oral TID 

 
Discharge Medications:
1.  Nicotine Polacrilex 2 mg PO Q1H:PRN nicotine cravings 
RX *nicotine (polacrilex) 2 mg 2mg every hour Disp #*40 Gum 
Refills:*0 
2.  Sertraline 175 mg PO DAILY 
RX *sertraline 100 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0
RX *sertraline 25 mg 3 tablet(s) by mouth once a day Disp #*90 
Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
MDD moderate, no psychotic features
Anxiety nos
ADHD per hx
Stimulant use disorder
r/o stimulant induced mood disorder
Cannabis use disorder
Nicotine use disorder

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___